US04552894
Sodium hydride (0.32 g; 60% in oil) was suspended in 30 ml of dry acetonitrile, and 1.1 g of 4-methoxybenzyl alcohol was added. The mixture was stirred at 50° to 60° C. for 30 minutes. Then, 1.5 g of 4-(2-fluoroethoxy)benzyl chloride was added. The mixture was heated under reflux for 3 hours. The reaction mixture was cooled to room temperature, poured into water, and extracted with toluene. The toluene layer was washed with water, and dried over anhydrous sodium sulfate. Toluene was evaporated under reduced pressure. The resulting crude ether was purified by silica gel (50 g) column chromatography (developing solvent: a 9:1 mixture of benzene and ethyl acetate) to give 1.6 g of 4-(2-fluoroethoxy)benzyl 4-methoxybenzyl ether.

reactant | Sodium hydride | 0.32 g | [H-].[Na+]
reactant | 4-methoxybenzyl alcohol | 1.1 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | 4-(2-fluoroethoxy)benzyl chloride | 1.5 g | FCCOC1=CC=C(CCl)C=C1 | C9H10ClFO
reactant | water | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-(2-fluoroethoxy)benzyl 4-methoxybenzyl ether | 1.6 g | COC1=CC=C(COCC2=CC=C(C=C2)OCCF)C=C1 | C17H19FO3
